US07425358B2
Synthesis of a copolycarbonate from bisphenol TMC/4,4′-dihydroxydiphenyl ether (Molar Ratio 50:50)
130 ml of methylene chloride are added to a solution, rendered inert with nitrogen, of 7.077 g (0.035 mol.) of 4,4′-dihydroxydiphenyl ether and 10.87 g (0.035 mol.) of bisphenol TMC as well as 6.16 g (0.154 mol.) of sodium hydroxide in 130 ml of water. In a one-step procedure, 0.368 g (0.0024 mol. or 3.5 mol. % relative to bisphenol) of p-tert.-butylphenol (BUP) are added as chain terminator. At a pH value of 14 and at room temperature, 9.7 ml (13.8 g, 0.14 mol.) of phosgene are added in the course of 10 minutes. In order to prevent the pH value from falling below 12, 25% sodium hydroxide solution was added during the phosgenation. When the phosgenation is complete, and after rinsing with nitrogen, 0.10 ml (0.0007 mol., 1 mol. % relative to bisphenol) of n-ethylpiperidine is added as catalyst, and stirring is then carried out for one hour. The aqueous phase is separated off, and the organic phase is acidified with phosphoric acid and washed with distilled water until neutral and free of salt. Precipitation of the polymer in methanol and drying yield 14.08 g of polycarbonate.

reactant | 4,4′-dihydroxydiphenyl ether | 0.035 mol, 7.077 g | C1=CC(=CC=C1O)OC2=CC=C(C=C2)O | C12H10O3
reactant | bisphenol TMC | 0.035 mol, 10.87 g | CC1CC(CC(C1)(C2=CC=C(C=C2)O)C3=CC=C(C=C3)O)(C)C | C21H26O2
reactant | sodium hydroxide | 0.154 mol, 6.16 g | [OH-].[Na+]
reactant | p-tert.-butylphenol | 0.0024 mol, 0.368 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | phosgene | 0.14 mol, 9.7 ml, 13.8 g | C(=O)(Cl)Cl | CCl2O
reactant | n-ethylpiperidine | 0.0007 mol, 0.10 ml | C(C)N1CCCCC1 | C7H15N
solvent | water | 130 ml | O | H2O
solvent | methylene chloride | 130 ml | C(Cl)Cl | CH2Cl2
product | bisphenol TMC 4,4′-dihydroxydiphenyl ether | CC1CC(CC(C1)(C2=CC=C(C=C2)O)C3=CC=C(C=C3)O)(C)C.C1=CC(=CC=C1O)OC2=CC=C(C=C2)O | InChI=1S/C21H26O2.C12H10O3/c1-15-12-20(2,3)14-21(13-15,16-4-8-18(22)9-5-16)17-6-10-19(23)11-7-17;13-9-1-5-11(6-2-9)15-12-7-3-10(14)4-8-12/h4-11,15,22-23H,12-14H2,1-3H3;1-8,13-14H
